US04319913
The procedure of Example 1 was employed utilizing N-benzylaniline and 3-methoxyphenyl phosphonic dichloride. The reaction of the dilithio compound and the 3-methoxyphenyl phosphonic dichloride was conducted at 0° C. to yield 1-(3-methoxyphenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (2.75 g, 27% yield) as a solid having a melting point of 170°-172° C. and the following analysis:

reactant | N-benzylaniline | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | 3-methoxyphenyl phosphonic dichloride | COC=1C=C(C=CC1)P(=O)(Cl)Cl | C7H7Cl2O2P
product | 1-(3-methoxyphenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 2.75 g, 27% yield | COC=1C=C(C=CC1)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O | C20H18NO2P
